* =============================================================
* Simulation 01: INA128 Instrumentation Amplifier — Gain & Bandwidth
* Project: sEMG Prosthetic FYP | Ian Kiarie | JKUAT
*
* Uses: INA128 ngspice behavioral model (G=50 fixed)
* Verifies: Gain = 50 (34 dB) at 100 Hz, -3 dB at ~200 kHz
* =============================================================
.TITLE INA128 Gain Simulation

.INCLUDE models/INA128_ngspice.lib

* ---- Supplies ----
VCC   VCC  0  DC 5
VREF  VREF 0  DC 2.5

* ---- Differential input: 1 mV AC ----
VIN  INP  INM  AC 1m

* ---- Input protection ----
RINP  INP  INA_INP  10K
RINM  INM  INA_INM  10K

* ---- INA128: IN+  IN-  V+  V-  OUT  REF ----
XINA  INA_INP  INA_INM  VCC  0  OUT  VREF  INA128

RLOAD  OUT  0  100K

* ---- AC Analysis ----
.AC DEC 100 1 1MEG

.CONTROL
  run
  plot vdb(out) title "INA128 Gain (dB) — target 34 dB at 100 Hz"
  meas ac gain_100hz FIND vdb(out) AT=100
  meas ac gain_1khz  FIND vdb(out) AT=1K
  echo "Gain at 100 Hz (expect ~34 dB = 50x):" $&gain_100hz
  echo "Gain at 1 kHz (expect ~34 dB):"        $&gain_1khz
  write sim01_ina128.raw
.ENDC

.END
