* =============================================================
* INA128 Simple Behavioral Macromodel for ngspice
* Suitable for AC Bode-plot analysis (filter design verification)
*
* Modelled: gain G=50, 200 kHz bandwidth, output rail clamp
* Pin order: IN+  IN-  V+  V-  OUT  REF
*             1    2    3    4    5    6
*
* Usage:
*   .INCLUDE models/INA128_ngspice.lib
*   XINA1  INP  INM  VCC  GND  OUT  VREF  INA128
* =============================================================
.SUBCKT INA128 1 2 3 4 5 6
*
* Input resistance (differential + common mode)
RIN1  1  2  10G
RIN_CM1  1  0  10G
RIN_CM2  2  0  10G
*
* Differential gain: G=50 (fixed — set via parameter in top netlist if needed)
* E-source VCVS: OUT_IDEAL = 50 × (V(IN+) - V(IN-)) + V(REF)
EGAIN  IDEAL_OUT  6  1  2  50
*
* Bandwidth limit: GBW = 10 MHz at G=1 → BW = 10e6/50 = 200 kHz at G=50
* One-pole RC: fp = 1/(2π×R×C)
* Use R=1k, C = 1/(2π×1k×200k) = 795 pF
RPOLE  IDEAL_OUT  POLE_NODE  1K
CPOLE  POLE_NODE  6  795P
*
* Output buffer (unity gain, low Rout)
EOUT  5  6  POLE_NODE  6  1
*
* Output resistance
ROUT_INTERNAL  5  0  50
*
.ENDS INA128
