*$
* INA12x
*****************************************************************************
* (C) Copyright 2023 Texas Instruments Incorporated. All rights reserved.     
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.      
** TI and its licensors and suppliers make no warranties, either expressed   
** or implied, with respect to this model, including the warranties of       
** merchantability or fitness for a particular purpose. The model is        
** provided solely on an "as is" basis. The entire risk as to its quality   
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Online Design Tools, Texas Instruments Inc.
* Part: INA12x
* Date: 31JAN2023
* Model Type: ALL IN ONE
* EVM Order Number: N/A 
* EVM Users Guide:  N/A 
* Datasheet: SBOS051F - OCTOBER 1995 - REVISED MAY 2022
*
* Model Version: Final 1.1
*
*****************************************************************************
*
* Updates:
*
* Final 1.1
* 1. Updated PSpice symbol.
* 2. Updated Model name from INA128 to INA12x.
*
* Final 1.0 : 
* Release to Web
*
*****************************************************************************
* Model Usage Notes:
* Model is applicable to INA128, INA129, INA128-HT, INA129-HT and INA129-EP.
*****************************************************************************
* COMMENTS
* CONNECTIONS:          NON-INVERTING INPUT
*                        |  INVERTING INPUT
*                        |   |  POSITIVE POWER SUPPLY
*                        |   |   |  NEGATIVE POWER SUPPLY
*                        |   |   |   |  OUTPUT
*                        |   |   |   |   |  REFERENCE
*                        |   |   |   |   |   |  GAIN SENSE 1
*                        |   |   |   |   |   |   |  GAIN SENSE 2
*                        |   |   |   |   |   |   |   |
* PIN CONFIG FOR INA12x  1   2   3   4   5   8   9  10 
*****************************************************************************
.SUBCKT INA12x 1 2 3 4 5 8 9 10
*****************************************************************************
* Models
.MODEL DX D (IS=1.0E-24)
.MODEL QX NPN (IS=800.0E-18 BF=500)
.MODEL QY PNP (IS=800.0E-18 BF=500)
.MODEL SM VSWITCH (RON=10 ROFF=100E3 VON=-.7 VOFF=-1)
.MODEL SP VSWITCH (RON=10 ROFF=100E3 VON=.7 VOFF=1)
*****************************************************************************
* Components
CC1 17 11 5.0000PF 
CC2 16 12 5.0000PF 
CG1 9 0 10.0000PF 
CG2 10 0 8.0000PF 
CIN 13 14 4.0000PF 
D1 15 17 DX 
D2 15 16 DX 
DI1 43 41 DX
DI2 47 45 DX
I1 3 16 DC 20.00E-6
I2 3 17 DC 20.00E-6
I11 41 42 .7MA
I12 4 43 DC .8MA
I21 45 46 .7MA
I22 4 47 DC .8MA
IB1CAN 3 42 DC 40.00E-9
IB2CAN 3 46 DC 40.00E-9
IBAL 0 4 DC 6.5E-6
Q1 16 42 10 QX 
Q2 17 46 9 QX 
QSET1 4 40 42 QY
QSET2 4 44 46 QY
R1 11 13 40.0000K 
R1FB 9 11 25.000K 
R2 13 5 39.996K 
R2FB 10 12 25.000K 
R3 12 14 40.0000K 
R4 14 8 40.0000K 
RCE 17 9 20G 
RIN1 1 41 1K
RIN2 2 45 1K
S11 41 42 1 41 SP
S12 4 43 1 41 SM
S21 45 46 2 45 SP
S22 4 47 2 45 SM
V1 3 15 DC 1.700
VSET1 3 40 DC 2.0
VSET2 3 44 DC 2.0
X1 15 17 3 4 11 A1_INA12x
X2 15 16 3 4 12 A2_INA12x
X3 14 13 3 4 5 A3_INA12x
.ENDS INA12x
*****************************************************************************
.SUBCKT A1_INA12x 1 2 3 4 5
*****************************************************************************
* Models
.MODEL DX D (IS=800.0E-18)
.MODEL JX PJF (IS=15.00E-12 BETA=31.58E-3 VTO=-1)
*****************************************************************************
* Components
C1 11 12 2.887E-12
C2 6 7 10.00E-12
CSS 10 99 1.000E-30
DC 5 53 DX
DE 54 5 DX
DLN 92 90 DX
DLP 90 91 DX
DP 4 3 DX
DQ1 20 21 DX
DQ2 22 20 DX
EGND 99 0 POLY(2) (3,0) (4,0) 0 .5 .5
FB 7 99 POLY(5) VB VC VE VLP VLN 0 79.58E6 -80E6 80E6 80E6 -80E6
FQ1 3 0 POLY(1) VQ1 120U 1
FQ2 0 4 POLY(1) VQ2 120U -1
FQ3 0 20 POLY(1) VLIM 0 1
GA 6 0 11 12 1.257E-3
GCM 0 6 10 99 125.7E-12
HLIM 90 0 VLIM 1K
ISS 3 10 DC 50.00E-6
J1 11 2 10 JX
J2 12 1 10 JX
R2 6 9 100.0E3
RD1 4 11 795.8
RD2 4 12 795.8
RO1 8 5 10
RO2 7 99 10
RP 3 4 3.00E6
RSS 10 99 4.000E6
VB 9 0 DC 0
VC 3 53 DC 1.5
VE 54 4 DC .9
VLIM 7 8 DC 0
VLN 0 92 DC 14
VLP 91 0 DC 14
VQ1 21 0 0
VQ2 22 0 0
.ENDS A1_INA12x
*****************************************************************************
.SUBCKT A2_INA12x 1 2 3 4 5
*****************************************************************************
* Models
.MODEL DX D (IS=800.0E-18)
.MODEL JX PJF (IS=15.00E-12 BETA=31.58E-3 VTO=-1)
*****************************************************************************
* Components
C1 11 12 2.887E-12
C2 6 7 10.00E-12
CSS 10 99 1.000E-30
DC 5 53 DX
DE 54 5 DX
DLN 92 90 DX
DLP 90 91 DX
DP 4 3 DX
DQ1 20 21 DX
DQ2 22 20 DX
EGND 99 0 POLY(2) (3,0) (4,0) 0 .5 .5
FB 7 99 POLY(5) VB VC VE VLP VLN 0 79.58E6 -80E6 80E6 80E6 -80E6
FQ1 3 0 POLY(1) VQ1 120U 1
FQ2 0 4 POLY(1) VQ2 120U -1
FQ3 0 20 POLY(1) VLIM 0 1
GA 6 0 11 12 1.257E-3
GCM 0 6 10 99 125.7E-12
HLIM 90 0 VLIM 1K
ISS 3 10 DC 50.00E-6
J1 11 2 10 JX
J2 12 1 10 JX
R2 6 9 100.0E3
RD1 4 11 795.8
RD2 4 12 795.8
RO1 8 5 10
RO2 7 99 10
RP 3 4 3.00E6
RSS 10 99 4.000E6
VB 9 0 DC 0
VC 3 53 DC 1.5
VE 54 4 DC .9
VLIM 7 8 DC 0
VLN 0 92 DC 14
VLP 91 0 DC 14
VQ1 21 0 0
VQ2 22 0 0
.ENDS A2_INA12x
*****************************************************************************
.SUBCKT A3_INA12x 1 2 3 4 5
*****************************************************************************
* Models
.MODEL DX D (IS=800.0E-18)
.MODEL QX NPN (IS=800.0E-18 BF=318.8)
*****************************************************************************
* Components
C1 11 12 2.730E-12
C2 6 7 15.00E-12
DC 5 53 DX
DE 54 5 DX
DLN 92 90 DX
DLP 90 91 DX
DP 4 3 DX
DQ1 20 21 DX
DQ2 22 20 DX
EGND 99 0 POLY(2) (3,0) (4,0) 0 .5 .5
FB 7 99 POLY(5) VB VC VE VLP VLN 0 163.2E6 -160E6 160E6 160E6 -160E6
FQ1 3 0 POLY(1) VQ1 206.7E-6 1
FQ2 0 4 POLY(1) VQ2 206.7E-6 -1
FQ3 0 20 POLY(1) VLIM 0 1
GA 6 0 11 12 122.5E-6
GCM 0 6 10 99 12.25E-12
HLIM 90 0 VLIM 1K
IEE 10 4 DC 63.95E-6
Q1 11 2 13 QX
Q2 12 1 14 QX
R2 6 9 100.0E3
RC1 3 11 8.162E3
RC2 3 12 8.162E3
RE1 13 10 7.327E3
RE2 14 10 7.327E3
REE 10 99 3.127E6
RO1 8 5 300
RO2 7 99 300
RQ 3 4 1.87E6
VB 9 0 DC 0
VC 3 53 DC 1.500
VE 54 4 DC 1.400
VLIM 7 8 DC 0
VLN 0 92 DC 14
VLP 91 0 DC 5
VQ1 21 0 0
VQ2 22 0 0
.ENDS A3_INA12x
*
