* =============================================================
* MCP6002 Op-Amp Behavioral Macromodel for ngspice
* Based on Microchip MCP6002 Datasheet DS21801E
*
* Pins: 1=IN+  2=IN-  3=V+  4=V-  5=OUT
* All DC/AC/transient simulations. Good for filter design verification.
*
* Specs modelled:
*   OL gain:  100 dB (100,000 V/V)
*   GBW:      1 MHz  (dominant pole at ~10 Hz)
*   Rin_diff: 1 GΩ
*   Rout:     100 Ω
*   (No slew rate, no noise, no supply clamp — sufficient for filter Bode work)
* =============================================================
.SUBCKT MCP6002 1 2 3 4 5

* Input differential resistance
RINDIFF  1  2  1G

* Open-loop gain stage (100 dB = 100,000 V/V)
EGAIN  VGAIN  0  1  2  100000

* Dominant pole: fp = 10 Hz
* fp = 1/(2π × R × C)  → R=10k, C=1.59µF → fp = 10.0 Hz
* GBW = 100,000 × 10 Hz = 1 MHz ✓
RPOLE  VGAIN  VPOLE  10K
CPOLE  VPOLE  0  1.59U

* Unity-gain output buffer
EOUT  VBUF  0  VPOLE  0  1

* Output resistance: 100 Ω (MCP6002 typical)
ROUT  VBUF  5  100

.ENDS MCP6002
